US08071592B2
(g) 4-Chloro-7-oxo-6,7-dihydro-1H-pyrimido[5,4-b][1,4]oxazine-2-carbaldehyde
To a solution of 4-chloro-2-[(E)-2-phenylethenyl]-6H-pyrimido[5,4-b][1,4]oxazin-7(8H)-one (0.45 g, 1.16 mmol) in 1,4-dioxane (25 mL) and water (10 mL) was added NaIO4 (1.26 g, 4.4 mmol) along with a catalytic amount of OsO4 (0.36 mL, 4 wt. % in water). The resulting mixture was stirred at room temperature for 5 h. The solvent was evaporated under reduced pressure and the residue was extracted with 10% methanol in DCM (3×50 ml). The organic extracts were combined, dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give a solid which was purified by column chromatography (silica gel) with a 0-10% methanol in DCM gradient to give the desired product as light yellow solid (0.28 g, 84%).

reactant | 4-chloro-2-[(E)-2-phenylethenyl]-6H-pyrimido[5,4-b][1,4]oxazin-7(8H)-one | 1.16 mmol, 0.45 g | ClC1=NC(=NC2=C1OCC(N2)=O)\C=C\C2=CC=CC=C2 | C14H10ClN3O2
reactant | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | OsO4 | 0.36 mL | O=[Os](=O)(=O)=O
product | 4-Chloro-7-oxo-6,7-dihydro-1H-pyrimido[5,4-b][1,4]oxazine-2-carbaldehyde | 0.28 g, 84% | ClC=1N=C(NC=2C1OCC(N2)=O)C=O | C7H4ClN3O3
